### PR TITLE
Lemma 10.1.7

### PR DESCRIPTION
**Pull request by JasperMS**
With the correct statement in place in 10.1.8, it was feasible to prove both estimates without resorting to epsilon-delta intricacies.
Instead `continuousWithinAt_of_dominated` was used.

This led to intricacies because continuity of an indicator had to be proved. This was feasible but only at the boundary. Therefore no `ContinuousOn` or `Continuous` statement was shown.
In fact if you look precisely the formalised statement aligns with the blueprint in the sense that they show the same thing.

In terms of the formalisation, I struggled to play nicely with `nhdsWithin` on the reals, so it might be that some statements can be optimised. Also the proofs look similar, but in critical parts the left-or-rightness is being used so I'm afraid it cannot be easily unified.

### CODE REVIEW

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 1]
```diff
@@ -942,20 +942,125 @@ theorem simple_nontangential_operator_le (ha : 4 ≤ a)
...
+omit [CompatibleFunctions ℝ X (defaultA a)] [IsCancellative X (defaultτ a)] in
 /-- Part of Lemma 10.1.7, reformulated -/
-theorem small_annulus_left (ha : 4 ≤ a)
-    {f : X → ℂ} (hf : BoundedFiniteSupport f) {R₂ : ℝ} :
-    Continuous (fun R₁ ↦ ∫ y in Annulus.oo x' R₁ R₂, K x' y * f y) := by
-  sorry
+theorem small_annulus_left {g : X → ℂ} (hg : BoundedFiniteSupport g) {R₁ R₂ : ℝ} (hR₁ : 0 ≤ R₁):
+    ContinuousWithinAt (fun R ↦ ∫ y in Annulus.oo x R R₂, K x y * g y) (Ioo R₁ R₂) R₂ := by
+  by_cases hR1R2 : R₁ < R₂
+  case neg => rw [Ioo_eq_empty hR1R2, ContinuousWithinAt, nhdsWithin_empty]; exact Filter.tendsto_bot
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:1008]: FWIW, I'd use a focusing dot (and `swap` if needed): but this need not block merging this PR.

File: Carleson/TwoSidedCarleson/Basic.lean [hunk 2]
```diff
@@ -26,6 +26,43 @@ lemma memLp_top_K_on_ball_complement (hr : 0 < r) {x : X}:
...
+    · apply measure_mono_null_ae this.eventuallyLE
+      rw [setOf_or]
+      apply measure_union_null
+      · rw [← ae_iff]
+        apply ae_restrict_of_forall_mem measurableSet_ball.compl
+        intro y hy
+        simp_rw [M1, ← ENNReal.toReal.eq_1, ← toReal_enorm]
+        apply (ENNReal.toReal_le_toReal enorm_lt_top.ne ?_).mpr
+        · apply enorm_K_le_ball_complement hy
+        · exact (div_lt_top coe_ne_top ((measure_ball_pos volume x hr).ne.symm)).ne
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/Basic.lean:59]: Can `finiteness` do this now?

**Review by grunweg — COMMENTED** [review]
Thanks, looks good. I left two comments, which are optional: let me just merge this (and feel free to clean this up in later PRs).

**Comment by grunweg** [comment]
CI is pretty green, so let's merge this already.

File: Carleson/TwoSidedCarleson/Basic.lean (hunk 2 above)
Comment (JasperMS) [reply Carleson/TwoSidedCarleson/Basic.lean:59]: FYI It can't, it's stuck on measure_ball_pos which isn't tagged with `positivity`.

Comment (grunweg) [reply Carleson/TwoSidedCarleson/Basic.lean:59]: So you could do the following, right?
```
have := measure_ball_pos volume x hr
finiteness
